US04797470
O-[(butylamino)carbonyl]-2,6-dimethyl-L-tyrosyl-N-(3-phenylpropyl)-D-alaninamide, monohydrochloride.
The Boc-precursor of the titled compound is prepared by the method of Example 6 using N[(1,1-dimethylethoxy)carbonyl]-2,6-dimethyl-L-tyrosyl-N-(3-phenylpropyl)-D-alaninamide in place of its D-tyrosine containing analog. The resulting Boc-precursor is reacted with glacial acetic acid and 6.8N HCl-dioxane according to the method of Example 3 to produce the titled hydrochloride salt.

reactant | N[(1,1-dimethylethoxy)carbonyl]-2,6-dimethyl-L-tyrosyl-N-(3-phenylpropyl)-D-alaninamide | CC(C)(OC(=O)N[C@@H](CC1=C(C=C(C=C1C)O)C)C(=O)N[C@H](C)C(=O)NCCCC1=CC=CC=C1)C | C28H39N3O5
reactant | D-tyrosine | N[C@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | HCl dioxane | 6.8N | Cl.O1CCOCC1
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | O-[(butylamino)carbonyl]-2,6-dimethyl-L-tyrosyl-N-(3-phenylpropyl)-D-alaninamide, monohydrochloride | Cl.C(CCC)NC(=O)OC1=CC(=C(C[C@H](N)C(=O)N[C@H](C)C(=O)NCCCC2=CC=CC=C2)C(=C1)C)C | InChI=1S/C28H40N4O4.ClH/c1-5-6-14-31-28(35)36-23-16-19(2)24(20(3)17-23)18-25(29)27(34)32-21(4)26(33)30-15-10-13-22-11-8-7-9-12-22;/h7-9,11-12,16-17,21,25H,5-6,10,13-15,18,29H2,1-4H3,(H,30,33)(H,31,35)(H,32,34);1H/t21-,25+;/m1./s1
